US09371320B2
A) tert-butyl 2-(tetrahydro-2H-pyran-4-yl)hydrazinecarboxylate
A solution of tetrahydro-4H-pyran-4-one (2.50 g) and tert-butyl hydrazinecarboxylate (3.47 g) in methanol (10 mL) was stirred at room temperature for 1 hr, and concentrated under reduced pressure. The residue was dissolved in THF (25 mL), acetic acid (4.3 mL) and sodium borohydride (0.525 g) were added thereto, and the mixture was stirred at 0° C. for 1 hr. To the reaction mixture was added 8N aqueous sodium hydroxide solution, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (2.34 g).

reactant | tetrahydro-4H-pyran-4-one | 2.50 g | O1CCC(CC1)=O | C5H8O2
reactant | tert-butyl hydrazinecarboxylate | 3.47 g | N(N)C(=O)OC(C)(C)C | C5H12N2O2
solvent | methanol | 10 mL | CO | CH4O
product | tert-butyl 2-(tetrahydro-2H-pyran-4-yl)hydrazinecarboxylate | 2.34 g | O1CCC(CC1)NNC(=O)OC(C)(C)C | C10H20N2O3
